US06124323
1-(2-Phenoxyethyl)-4-(3-Fluorobenzyl)piperidine hydrochloride
From a mixture of 4-(3-fluorobenzyl)piperidine hydrochloride (229.5 mg, 1.0 mmol), 2-phenoxyethyl tosylate (350.4 mg, 1.2 mmol), potassium carbonate (414 mg, 3.0 mmol) in 15 mL of ethanol was 175 mg (50%) of the title compound, mp 175-177° C. 1H NMR (DMSO-d3) 1.696 (m, 1 H), 1.582 (m, 2 H), 2.096 (m, 2 H), 2.617 (m, 2 H), 2.781 (m, 2 H), 3.395 (m, 2 H), 3.687 (m, 2 H), 4.547 (s, 2 H), 6.756-6.999 (m, 6 H), 7.288 (m, 3 H), 12.556 (s, 1 H). Anal. Calcd for C20H25ClFNO: C, 68.66; H, 7.20; N, 4.00. Found: C, 68.37; H, 7.09; N, 3.98.

reactant | 4-(3-fluorobenzyl)piperidine hydrochloride | 1.0 mmol, 229.5 mg | Cl.FC=1C=C(CC2CCNCC2)C=CC1
reactant | 2-phenoxyethyl tosylate | 1.2 mmol, 350.4 mg | S(=O)(=O)(OCCOC1=CC=CC=C1)C1=CC=C(C)C=C1 | C15H16O4S
reactant | potassium carbonate | 3.0 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(2-Phenoxyethyl)-4-(3-Fluorobenzyl)piperidine hydrochloride | 175 mg, 50% | Cl.O(C1=CC=CC=C1)CCN1CCC(CC1)CC1=CC(=CC=C1)F | InChI=1S/C20H24FNO.ClH/c21-19-6-4-5-18(16-19)15-17-9-11-22(12-10-17)13-14-23-20-7-2-1-3-8-20;/h1-8,16-17H,9-15H2;1H
